US09422312B2
Step 2: Imino(methyl)pyrrolidin-1-yl-λ6-sulfanone
A solution of sodium anthracenide (0.6 M in 1,2-dimethoxyethane; 20 mL) is added drop wise to methyl[(4-methylbenzenesulfonyl)imino]pyrrolidin-1-yl-λ6-sulfanone (2.00 g) in 1,2-dimethoxyethane (10 mL) at 0° C. until the blue color persists for a few minutes. The reaction mixture is quenched with hydrochloric acid (3 N; 3 mL), diluted with dichloromethane (60 mL), and stirred for a few minutes. The aqueous phase is separated, washed with dichloromethane and diethyl ether, and basified with solid sodium carbonate. The water is removed in vacuo and the dry residue is stirred with dichloromethane (20 mL) for 1 h. The extract is filtered, dried over MgSO4, and concentrated in vacuo to give the title compound. Mass spectrum (ESI+): m/z=149 [M+H]+.

reactant | sodium anthracenide | 0.6 M, 20 mL | [C-]1=CC=CC2=CC3=CC=CC=C3C=C12.[Na+]
reactant | methyl[(4-methylbenzenesulfonyl)imino]pyrrolidin-1-yl-λ6-sulfanone | 2.00 g | CS(=O)(N1CCCC1)=NS(=O)(=O)C1=CC=C(C=C1)C | C12H18N2O3S2
solvent | 1,2-dimethoxyethane | 10 mL | COCCOC | C4H10O2
product | Imino(methyl)pyrrolidin-1-yl-λ6-sulfanone | N=S(=O)(N1CCCC1)C | C5H12N2OS
